Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([O:3][H:11])[C:6]([H:15])=[N:7]1)([H:8])([H:9])[H:10].[C:4](=[N:5][H:14])([H:12])[H:13]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10],23.407682629646906
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3]([C:6](=[O:7])[H:14])[H:11])=[O+:4][C-:5]([H:12])[H:13])([H:8])([H:9])[H:10],45.82545860711221
[C:5]([O:6][H:13])([H:7])([H:11])[H:12].[N:1](=[C:2]1\[O:3][C:4]1([H:9])[H:10])\[H:8]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([O:6][H:13])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8],40.23961006614242
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([C:3]([O:4][H:8])=[C:5]=[O:6])[H:7],60.7145081533881
[C:1]1([H:8])([H:9])[C@@:2]2([H:10])[C@@:3]3([H:11])[C:4]([H:12])([H:13])[C@:5]([H:14])([C:6]3([H:15])[H:16])[N:7]12>>[C:1](=[C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])/[C:5](=[N:7]/[H:14])[C:6]1([H:15])[H:16])[H:10])([H:8])[H:9],58.8870723025359
[C:1](#[C:2][c:3]1[c:4]([H:9])[c:5]([H:10])[c:6]([H:11])[o:7]1)[H:8]>>[C:1]1([H:8])=[C:2]=[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]([H:11])[O:7]1,70.1498112865582
[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[C:4]1([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])=[C:4]1[C:5]([H:13])([H:14])[H:15])([H:7])([H:8])[H:9].[C:6]([H:12])([H:16])([H:17])[H:18],114.198312331777
[C:1](=[C:2]([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:9])[H:10].[C:3](=[O:4])([H:8])[H:12]>>[C:1]([C@@:2]([C:3](=[O:4])[H:12])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10],39.74393077354529
[C:1]([O:2][C:3]([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O:2][H:15])([H:8])([H:9])[H:10].[C:3]1([H:11])([H:12])[C:4]([H:13])([H:14])[N:5]1[C:6](=[O:7])[H:16],62.4833487093073
[N:1]([c:2]1[n:3][o:4][c:5](=[O:6])[n:7]1[H:10])([H:8])[H:9]>>[C:5](=[O:6])=[N:7][H:10].[N:1]([C:2]#[N+:3][O-:4])([H:8])[H:9],53.756367405794705
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:16])[H:17].[H:13][H:18],61.60099276372729
[O-:1][C:2]([C:3]([C:4]([C:5]#[O+:6])([H:10])[H:11])([H:8])[H:9])([H:7])[H:12]>>[O:1]=[C:2]([C:3]([C:4]([C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7],5.873836126454194
[N:1](=[C:2](/[O:3][C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])[H:8])\[H:7]>>[C:4](=[C:5]([O:6][H:8])[H:11])([H:9])[H:10].[N:1](=[C:2]=[O:3])[H:7],48.5142307705047
[N:1]([C:2](=[O:3])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2](/[O:3][H:8])[C:4]([C:5](=[O:6])[H:11])([H:9])[H:10])\[H:7],39.540654279775296
[C:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:2]([H:11])([H:12])[C:3]1([O:4][H:8])[C:5]#[C:6][C:7]([H:13])([H:14])[H:15],73.7469458556095
[C:1]([C:2]([C@@:3]([N:4]([H:13])[H:14])([C:5]#[N:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C-:3]([N+:4]([H:12])([H:13])[H:14])[C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9],68.7626296120455
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2]([O-:3])=[C:4]([O:5][C:6](=[N+:7]([H:11])[H:13])[H:12])[H:10])([H:8])[H:9],43.73741061973779
[C:1]1([H:7])([H:8])[C@@:2]2([H:9])[O:3][C@:4]1([H:10])[C:5]([H:11])=[C:6]2[H:12]>>[C@:1]12([H:7])[C@:2]([H:9])([O:3]1)[C:6]([H:12])=[C:5]=[C:4]2[H:10].[H:8][H:11],121.24767039094
[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[O:6][C@@:7]1([C:5][H:11])[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],24.4371142663514
[C:1]([O:2][C:3](/[C:4](=[N:5]\[O:6][H:13])[C:7]([H:14])([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([O+:2]=[C-:3][H:12])([H:8])([H:9])[H:10].[C:4](#[N:5])[C:7]([H:14])([H:15])[H:16].[O:6]([H:11])[H:13],53.27638427479121
[N:1]([C@@:2]([C:3](=[C:4]([H:13])[H:14])[H:11])([C:6]#[N:7])[H:10])([H:8])[H:9].[O:5]([H:12])[H:15]>>[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9],50.0398749096995
[C:1]1([H:7])([H:8])[C-:2]=[C:3]([H:10])[C+:4]2[N:5]([H:12])[C@@:6]12[H:13].[H:9][H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],54.4754452020093
[O:1]([C:2]1([C:5]#[C:6][H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7]>>[O:1]([C:4]([C:3]([C-:2]=[C:5]=[C+:6][H:12])([H:8])[H:9])([H:10])[H:11])[H:7],76.28299057227291
[C:1]([C:2]([C:3]([O:4][C:5]([C:6]([C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[O+:4][C-:5]([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([C:7]([H:19])([H:20])[H:21])([H:14])([H:17])[H:18],78.2193596026094
